US08809333B2
To a solution of 2-(4-phenyl-1H-imidazol-1-yl)ethanol (500 mg, 2.66 mmol, 1 eq) in DCM (10 mL) was added PPh3 (778 mg, 2.96 mmol, 1.1 eq), imidazole (203 mg, 2.98 mmol, 1.1 eq) and iodine (753 mg, 2.97 mmol, 1.1 eq). The reaction mixture was allowed to stir at RT overnight. The organic layer was extracted with 1N HCl. The combined acid extracts were then adjusted to pH˜8 with solid sodium carbonate. The aqueous layer was extracted 2× with Et2O. The combined ether extracts were dried over sodium sulfate, filtered and concentrated to dryness to give 1-(2-iodoethyl)-4-phenyl-1H-imidazole (623 mg, 78% yield) which was used without further purification. LC-MS M+H+298.9.

reactant | 2-(4-phenyl-1H-imidazol-1-yl)ethanol | 2.66 mmol, 500 mg, 1 eq | C1(=CC=CC=C1)C=1N=CN(C1)CCO | C11H12N2O
reactant | PPh3 | 2.96 mmol, 778 mg, 1.1 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | imidazole | 2.98 mmol, 203 mg, 1.1 eq | N1C=NC=C1 | C3H4N2
reactant | iodine | 2.97 mmol, 753 mg, 1.1 eq | II | I2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-iodoethyl)-4-phenyl-1H-imidazole | 623 mg, 78% yield | ICCN1C=NC(=C1)C1=CC=CC=C1 | C11H11IN2
